US07268232B2
A solution of methyl magnesium bromide in diethyl ether (3 M, 3.7 mL, 11.09 mmol) was diluted with anhydrous THF (5 mL). Lithium bromide (1.93 g, 22.1 mmol) was slowly added to the solution at rt, followed by addition of a solution of Boc-nortropinone (500 mg, 2.21 mmol) in anhydrous THF (5 mL). The reaction mixture was stirred at 50° C. for 2 hours and stirring was continued overnight at rt. The reaction was quenched with water and the mixture partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and evaporated to dryness. Purification of the residue by silica gel column chromatography, eluting with a mixture of ethyl acetate and n-heptane (50:50), afforded 3-hydroxy-3-methyl-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (168 mg, 31%). The obtained product was dissolved in 2 M HCl in diethyl ether (5 mL). After 4 hours stirring at rt the mixture was left on standing overnight. The formed participate, 3-methyl-8-azabicyclo[3.2.1]octan-3-ol hydrochloride, was isolated by filtration and dissolved in a mixture of dichloromethane and methanol (90:10). PS-Trisamine was added to the solution and it was left standing overnight. The resin was removed by filtration and washed with dichloromethane. The filtrate was evaporated to dryness affording pure 3-methyl-8-azabicyclo[3.2.1]octan-3-ol. 1-Cyano-4-fluoronaphthalene (37.1 mg, 0.22 mmol) was added to a solution of 3-methyl-8-azabicyclo[3.2.1]octan-3-ol (91 mg, 0.64 mmol) in DMF (1 mL), followed by addition of pyridine (1 mL). The reaction mixture was stirred overnight at 100° C., cooled down to rt and partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and evaporated to dryness. Purification of the residue by silica gel column chromatography, eluting with a mixture of ethyl acetate and n-heptane (50:50), and by reverse phase preparative HPLC afforded the title compound (58 mg, 90%).

reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 11.09 mmol, 3 M, 3.7 mL | C(C)OCC | C4H10O
reactant | Lithium bromide | 22.1 mmol, 1.93 g | [Br-].[Li+]
reactant | Boc-nortropinone | 2.21 mmol, 500 mg | CC(C)(C)OC(=O)N1[C@@H]2CC[C@H]1CC(=O)C2 | C12H19NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-3-methyl-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 168 mg, 31% | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)(C)O | C13H23NO3
